US09227971B2
Step 1: Preparation of 5,6-dihydro-4H-cyclopenta[d]thiazol-2-amine
2-Chlorocyclopentanone (9.01 g, 74.4 mmol) was added slowly to a 95° C. stirred mixture of thiourea (5.77 g, 75.0 mmol) in 1,4-dioxane (150 mL). After full addition, the temperature was maintained for an hour then the mixture was cooled to room temperature. It was then filtered and washed with 1,4-dioxane and diethyl ether, and dried under air suction to afford 11.15 g white solid. This was partitioned between diethyl ether and saturated aqueous sodium carbonate. The ether layer was washed with brine, dried with Na2SO4, and solvent removed by rotoevaporation to afford 9.8 g beige solid. (Modified procedure from US Patent application 64 699, 2008, Florjancic, A. S.; et al).

reactant | 2-Chlorocyclopentanone | 74.4 mmol, 9.01 g | ClC1C(CCC1)=O | C5H7ClO
reactant | thiourea | 75.0 mmol, 5.77 g | NC(=S)N | CH4N2S
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 5,6-dihydro-4H-cyclopenta[d]thiazol-2-amine | 11.15 g | S1C(=NC2=C1CCC2)N | C6H8N2S
